US09120825B2
In an argon atmosphere, 8.71 g (37.4 mmol) of Si(tBuNCHCHNtBu)(H)Cl was dissolved in 20 mL of hexane and after adding a (prop-1-en-2-yl)magnesium bromide tetrahydrofuran solution (0.57 mol/L, 69.0 mL, 39.3 mmol), the resulting solution was refluxed for 14 hours. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was distilled under reduced pressure (distillation temperature: 80° C./4.3×102 Pa) to obtain 1,3-di-tert-butyl-2-(prop-1-en-2-yl)-1,3-diaza-2-silacyclopent-4-ene (Si(tBuNCHCHNtBu)(H)C(CH3)CH2) as a yellow liquid (yielded amount: 4.18 g, yield: 47%).

reactant | 2-chloro-1,3-di-tert-butyl-1,3-diaza-2-silacyclopent-4-ene | 37.4 mmol, 8.71 g | Cl[SiH]1N(C=CN1C(C)(C)C)C(C)(C)C | C10H21ClN2Si
reactant | (prop-1-en-2-yl)magnesium bromide tetrahydrofuran | 39.3 mmol, 0.57 mol/L, 69.0 mL | O1CCCC1.C=C(C)[Mg]Br
solvent | hexane | 20 mL | CCCCCC | C6H14
product | 1,3-di-tert-butyl-2-(prop-1-en-2-yl)-1,3-diaza-2-silacyclopent-4-ene | yield: 47% | C(C)(C)(C)N1[SiH](N(C=C1)C(C)(C)C)C(=C)C | C13H26N2Si
